US05279764
A solution of 0.1 mol of DCC in methylene chloride is added to a mixture of 0.1 mol of 4'-heptyloxy-2,3-difluorobiphenyl-4-ol, 0.1 mol of optically active 2-chloro-3-methylbutyric acid (prepared from valine) and a catalytic amount of DMAP in 250 ml of methylene chloride at 0° C. The mixture is then stirred at room temperature for 12 hours, the precipitate is subsequently filtered off with suction and the filtrate is worked up in the customary manner to give 4-(p-heptyloxyphenyl)-2,3-difluorophenyl 2-chloro-3-methylbutyrate.

reactant | DCC | 0.1 mol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4'-heptyloxy-2,3-difluorobiphenyl-4-ol | 0.1 mol | C(CCCCCC)OC1=CC=C(C=C1)C1=C(C(=C(C=C1)O)F)F | C19H22F2O2
reactant | 2-chloro-3-methylbutyric acid | ClC(C(=O)O)C(C)C | C5H9ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-(p-heptyloxyphenyl)-2,3-difluorophenyl 2-chloro-3-methylbutyrate | ClC(C(=O)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)OCCCCCCC)F)F)C(C)C | C24H29ClF2O3
